US06348474B1
2-Amino-6-bromo-3-nitropyridine hydrobromide
2-Amino-6-chloro-3-nitropyridine (20.2 g) was suspended in a 30% hydrobomide/acetic acid solution (100 ml), and the suspension was stirred at 90° C. After 4 hours, a 30% hydrobomide/acetic acid solution (100 ml) was added, and the mixture was stirred for another 1 hour at 90° C. Then, the reaction mixture was stirred at 100° C. for 8 hr while a hydrobromic acid gas was introduced little by little. The reaction mixture was cooled, and the precipitate was collected by filtration and washed with hexane to give the objective compound (33.0 g) as a pale-yellow powder.

reactant | 2-Amino-6-chloro-3-nitropyridine | 20.2 g | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-6-bromo-3-nitropyridine hydrobromide | 33.0 g | Br.NC1=NC(=CC=C1[N+](=O)[O-])Br | InChI=1S/C5H4BrN3O2.BrH/c6-4-2-1-3(9(10)11)5(7)8-4;/h1-2H,(H2,7,8);1H
